US04471117
A mixture of 1.9 parts of 3,4-dihydro-6-nonyl-2H-pyrimido[2,1-b]benzothiazole, 3.4 parts of 1,3-dichloro-2-(chloromethyl)benzene and 24 parts of acetonitrile is stirred and refluxed for 8 hours. The reaction mixture is evaporated and the residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 2.8 parts of 1-(2,6-dichlorophenylmethyl)-3,4-dihydro-6-nonyl-2H-pyrimido[2,1-b]benzothiazolium chloride; mp. 174.6° C.

reactant | 3,4-dihydro-6-nonyl-2H-pyrimido[2,1-b]benzothiazole | C(CCCCCCCC)C1=CC=CC2=C1N1C(S2)=NCCC1 | C19H28N2S
reactant | 1,3-dichloro-2-(chloromethyl)benzene | ClC1=C(C(=CC=C1)Cl)CCl | C7H5Cl3
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2,6-dichlorophenylmethyl)-3,4-dihydro-6-nonyl-2H-pyrimido[2,1-b]benzothiazolium chloride | [Cl-].ClC1=C(C(=CC=C1)Cl)C[N+]=1CCCN2C1SC1=C2C(=CC=C1)CCCCCCCCC | InChI=1S/C26H33Cl2N2S.ClH/c1-2-3-4-5-6-7-8-12-20-13-9-16-24-25(20)30-18-11-17-29(26(30)31-24)19-21-22(27)14-10-15-23(21)28;/h9-10,13-16H,2-8,11-12,17-19H2,1H3;1H/q+1;/p-1
